### PR TITLE
Erdős 424: the answer is yes (Korsky 2026), link the formal proof

### LINKED ISSUE #6075: Erdős 424: the answer is yes (Korsky 2026, formal proof in plby/lean-proofs)
`erdos_424` is `research open` with `answer(sorry)`. The docstring already cites Korsky's proof [Ko26] (arXiv:2608.07910, with ChatGPT 5.6 Pro) that the generated set has positive lower density, listed as a proof claim on erdosproblems.com/424.

There is now a complete formal proof in plby/lean-proofs (Alexeev and Codex): `Erdos424.erdos_424` at https://github.com/plby/lean-proofs/blob/8822f7ddef30fadbd92e1c6ab4ed897af356af5e/src/latest/ErdosProblems/Erdos424.lean#L6409, a single Mathlib-only file, standard axioms (rebuilt against this repo's Mathlib). It proves `∃ c > 0, ∀ᶠ x in atTop, c * x ≤ #((Icc 1 x).filter (· ∈ generatedSet))` for the same `nextGeneration`/`sequenceSet`/`generatedSet` definitions, which gives `c / 2 ≤ generatedSet.lowerDensity` (I have a ~50-line bridge checked locally).

So `erdos_424` can become `answer(True)` / `research solved` with a `formal_proof` link.

- [x] I plan on working on this issue

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6075.

### What changed
`erdos_424`: `answer(sorry)` → `answer(True)`, `research open` → `research solved`, docstring updated, `formal_proof using lean4` link to plby/lean-proofs `Erdos424.erdos_424` (pinned commit). Statement unchanged, still `by sorry`.

### Why
Korsky's proof [Ko26] (already cited in the file) now has a complete formalisation. The linked theorem proves `∃ c > 0, ∀ᶠ x in atTop, c * x ≤ #((Icc 1 x).filter (· ∈ generatedSet))`, for definitions that are verbatim copies of ours (`sequenceSet` is written with `Nat.rec` instead of the equation compiler; the two agree by `rfl` at each stage).

### How checked
- plby's file (Mathlib-only, 6.4k lines) rebuilt against this repo's Mathlib: `#print axioms` → `[propext, Classical.choice, Quot.sound]`.
- Bridge to our statement, compiled locally on top of it (their file with the namespace renamed to avoid the clash), same axioms:

<details><summary>bridge</summary>

```lean
namespace Erdos424

theorem sequenceSet_eq (n : ℕ) : sequenceSet n = Erdos424Plby.sequenceSet n := by
  induction n with
  | zero => rfl
  | succ n ih =>
    show sequenceSet n ∪ nextGeneration (sequenceSet n) =
      Erdos424Plby.sequenceSet n ∪ Erdos424Plby.nextGeneration (Erdos424Plby.sequenceSet n)
    rw [ih]
    rfl

theorem generatedSet_eq : generatedSet = Erdos424Plby.generatedSet := by
  unfold generatedSet Erdos424Plby.generatedSet
  simp only [sequenceSet_eq]

/-- The formal-conjectures statement: `generatedSet` has positive lower density. -/
theorem lowerDensity_pos : 0 < generatedSet.lowerDensity := by
  classical
  obtain ⟨c, hc, hev⟩ := Erdos424Plby.erdos_424
  rw [← generatedSet_eq] at hev
  have key : ∀ᶠ b : ℕ in atTop, c / 2 ≤ generatedSet.partialDensity Set.univ b := by
    rw [eventually_atTop] at hev ⊢
    obtain ⟨x0, hx0⟩ := hev
    refine ⟨x0 + 2, fun b hb => ?_⟩
    have hcount := hx0 (b - 1) (by omega)
    have hsub : (((Finset.Icc 1 (b - 1)).filter fun n ↦ n ∈ generatedSet : Finset ℕ) : Set ℕ) ⊆
        (generatedSet ∩ Set.univ) ∩ Set.Iio b := by
      intro n hn
      simp only [Finset.coe_filter, Finset.mem_Icc, Set.mem_ofPred_eq] at hn
      exact ⟨⟨hn.2, trivial⟩, by simp only [Set.mem_Iio]; omega⟩
    have h1 : (((Finset.Icc 1 (b - 1)).filter fun n ↦ n ∈ generatedSet).card : ℝ) ≤
        ((generatedSet ∩ Set.univ) ∩ Set.Iio b).ncard := by
      rw [← Set.ncard_coe_finset]
      exact_mod_cast Set.ncard_le_ncard hsub ((Set.finite_Iio b).subset Set.inter_subset_right)
    have h2 : ((Set.univ ∩ Set.Iio b : Set ℕ).ncard : ℝ) = b := by
      rw [Set.univ_inter, Set.ncard_eq_toFinset_card', Set.toFinset_Iio, Nat.card_Iio]
    have hb1 : ((b - 1 : ℕ) : ℝ) = (b : ℝ) - 1 := by
      rw [Nat.cast_sub (by omega), Nat.cast_one]
    have hbpos : (0 : ℝ) < b := by exact_mod_cast (show 0 < b by omega)
    have hb2 : (2 : ℝ) ≤ b := by exact_mod_cast (show 2 ≤ b by omega)
    simp only [Set.partialDensity]
    rw [h2, le_div_iff₀ hbpos]
    rw [hb1] at hcount
    nlinarith
  have hcob : (atTop : Filter ℕ).IsCoboundedUnder (· ≥ ·)
      (fun b ↦ generatedSet.partialDensity Set.univ b) :=
    isCoboundedUnder_ge_of_le atTop fun b => Set.partialDensity_le_one generatedSet Set.univ b
  have := le_liminf_of_le hcob key
  unfold Set.lowerDensity
  linarith

end Erdos424
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«424»` passes.

### CODE REVIEW

**Comment by Konamiu** [comment]
Note on status: erdosproblems.com (and teorth's `problems.yaml`, which `scripts/check_erdos_status.py` compares against) still records this problem as `open` while the proof claim is under human review, so after merging the hourly status check would report `repo=formally solved, erdosproblems.com=open`. If you would rather keep `research open` until the site updates, I am happy to restructure this PR the way the site handles "open (Lean)": leave the main statement untouched and add a `research solved` variant stating exactly the linked theorem with the `formal_proof` link (plus a docstring pointer). Just say which you prefer.

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!

File: FormalConjectures/ErdosProblems/424.lean [hunk 1]
```diff
@@ -58,12 +58,16 @@ here means positive *lower* density: is there $c > 0$ such that for all large $x
...
 
-Korsky [Ko26] has announced a proof that the set has positive lower density; it is listed
-as a proof claim on [erdosproblems.com/424](https://www.erdosproblems.com/424), which still
-records the problem as open.
+The answer is yes: Korsky [Ko26] (with ChatGPT 5.6 Pro) proved that the set has positive lower
+density. The linked formal proof (Alexeev and Codex) shows that there is `c > 0` with
+`c * x ≤ #{n ∈ [1, x] | n ∈ generatedSet}` for all large `x`, which gives
+`c / 2 ≤ generatedSet.lowerDensity`. The proof is listed as a proof claim on
+[erdosproblems.com/424](https://www.erdosproblems.com/424), which still records the problem as
+open.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/424.lean]:
```suggestion
`c / 2 ≤ generatedSet.lowerDensity`.
```

Let's remove this comment, it will just become stale

**Comment by Konamiu** [comment]
Removed the status remark from the docstring as suggested.
